US05795900
To a stirred solution in CH2Cl2 (0.5 mL), THF (20 mL), and pyridine (20 mL) of 2,2-bis(4-hydroxyphenyl)acetic acid (0.94 g, 3.85 mmol), prepared as in Example 31, was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (1.10 g, 5.76 mmol), glycine methyl ester hydrochloride (0.723 g, 5.76 mmol), and N-methylmorpholine (0.63 mL, 5,76 mmol) and the mixture was stirred overnight at room temperature. The reaction mixture was then diluted with ethyl acetate and aqueous 0.5 N HCl. The organic layer was washed with 0.5 N HCl (3X), saturated aqueous NaHCO3 (3X), and brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue was dried to constant weight on high vacuum to give 1.05 g (87%) of 2,2-bis(4-hydroxyphenyl)acetic acid-N-carboxymethyl amide.

reactant | 2,2-bis(4-hydroxyphenyl)acetic acid | 3.85 mmol, 0.94 g | OC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)O | C14H12O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 5.76 mmol, 1.10 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | glycine methyl ester hydrochloride | 5.76 mmol, 0.723 g | Cl.COC(CN)=O
reactant | N-methylmorpholine | 5,76 mmol, 0.63 mL | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 0.5 N | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2,2-bis(4-hydroxyphenyl)acetic acid-N-carboxymethyl amide | 1.05 g, 87% | C(=O)(O)CNC(C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)=O | C16H15NO5
